US05216167
Ethyl 2-ethoxy-4-[N-(2-piperidino-α-(tetrahydrofuran-2-yl-methyl)-benzyl)-aminocarbonylmethyl]-benzoate
Prepared analogously to Example 47 from 2-piperidino-α-(tetrahydrofuran-2-yl-methyl)-benzylamine and 3-ethoxy-4-ethoxycarbonyl-phenylacetic acid.

reactant | 2-piperidino-α-(tetrahydrofuran-2-yl-methyl)-benzylamine | N1(CCCCC1)C1=C(C(CC2OCCC2)N)C=CC=C1 | C17H26N2O
reactant | 3-ethoxy-4-ethoxycarbonyl-phenylacetic acid | C(C)OC=1C=C(C=CC1C(=O)OCC)CC(=O)O | C13H16O5
product | Ethyl 2-ethoxy-4-[N-(2-piperidino-α-(tetrahydrofuran-2-yl-methyl)-benzyl)-aminocarbonylmethyl]-benzoate | C(C)OC1=C(C(=O)OCC)C=CC(=C1)CC(=O)NC(C1=C(C=CC=C1)N1CCCCC1)CC1OCCC1 | C30H40N2O5
